### PR TITLE
[Merged by Bors] - fix: don't use `False` as a bool, use `false`

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean [hunk 1]
```diff
@@ -319,8 +319,8 @@ theorem eq_of_locally_eq₂ {U₁ U₂ V : Opens X} (i₁ : U₁ ⟶ V) (i₂ :
     · refine' le_trans hcover _
       rw [sup_le_iff]
       constructor
-      · convert le_iSup (fun t : ULift Bool => if t.1 then U₁ else U₂) (ULift.up True)
-      · convert le_iSup (fun t : ULift Bool => if t.1 then U₁ else U₂) (ULift.up False)
+      · convert le_iSup (fun t : ULift Bool => if t.1 then U₁ else U₂) (ULift.up true)
```
Comment (ADedecker) [inline Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean:322]: Should this whole proof use `bif` instead of `if`? If so that can wait for a later PR.

**Comment by ADedecker** [comment]
bors d+

File: Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean:322]: I thought about that, but didn't have lean open so couldn't actually change any proofs.

**Comment by eric-wieser** [comment]
bors merge

I think I'd prefer to declare `if` vs `bif` as out-of-scope, and leave that for a separate PR (by someone else)
